US07601844B2
Step-3: 3-Amino-6-trifluoromethyl-pyridine-2-carboxylic acid amide
7 g (0.0374 mol, 1 eq) of 5-amino-6-cyano-2-(trifluoromethyl)pyridine dissolved in 106 ml of 90% sulfuric acid was and heated at 70° C. for 3 h. The reaction mixture was cooled to RT and quenched with ice water and extracted with ethyl acetate. The organic layer was washed with brine and concentrated. The solid product obtained was washed with to get 6.8 g (89.47%) of off white solid. 1H NMR (CDCl3, 400 MHz) 5.5 (1H, bs), 7.1 (1H, d), 7.53 (1H, d), 7.80 (1H, bs). MS 206 (M+H)+.

reactant | 5-amino-6-cyano-2-(trifluoromethyl)pyridine | 0.0374 mol, 7 g, 1 eq | NC=1C=CC(=NC1C#N)C(F)(F)F | C7H4F3N3
reactant | sulfuric acid | 106 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Amino-6-trifluoromethyl-pyridine-2-carboxylic acid amide | NC=1C(=NC(=CC1)C(F)(F)F)C(=O)N | C7H6F3N3O
